US04140713
c. 5-[1-Hydroxy-2-[bis(phenylmethyl)amino]ethyl]-2-(1-piperidinyl)benzenesulphonamide
A solution of dibenzylamine (3.34 g) in butanone (10 ml) was added to a vigorously sitrred suspension of 5-(2-bromoacetyl)-2-(1-piperidinyl)benzenesulphonamide, hydrobromide (2.5 g) in butanone (100 ml). After 3 hours the mixture was filtered and the filtrate concentrated to a yellow oil. This oil was dissolved in ethanol (100 ml) and treated with sodium broohydride (0.42 g) at room temperature. After 1 hour, excess borohydride was destroyed with 2N hydrochloric acid. Ethanol was removed, the residue basified with 8% sodium bicarbonate solution and extracted with ethyl acetate (3 × 100 ml). The extracts were washed with water (100 ml), dried, and concentrated to a pale yellow oil (2.7 g). This was chromatographed on Merck Kieselgel 60 (50 g) to give the product as a white solid, 2 g, m.p. 133°-142°.

reactant | dibenzylamine | 3.34 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | 5-(2-bromoacetyl)-2-(1-piperidinyl)benzenesulphonamide, hydrobromide | 2.5 g | Br.BrCC(=O)C=1C=CC(=C(C1)S(=O)(=O)N)N1CCCCC1
solvent | butanone | 10 ml | CC(CC)=O | C4H8O
solvent | butanone | 100 ml | CC(CC)=O | C4H8O
product | 5-[1-Hydroxy-2-[bis(phenylmethyl)amino]ethyl]-2-(1-piperidinyl)benzenesulphonamide | OC(CN(CC1=CC=CC=C1)CC1=CC=CC=C1)C=1C=CC(=C(C1)S(=O)(=O)N)N1CCCCC1 | C27H33N3O3S
